US07342115B2
A mixture of 1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butan-1-ol (29 mg), and SOCl2 (0.2 mL) in CH2Cl2 (1 mL) is stirred at room temperature for one hour. The volatile materials are removed in vacuo to give 5-(1-chloro-butyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine.

reactant | 1-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-butan-1-ol | 29 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)O)OCC | C21H29NO2
reactant | SOCl2 | 0.2 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-chloro-butyl)-2-(2,6-diethyl-phenyl)-4-ethoxy-pyridine | ClC(CCC)C=1C(=CC(=NC1)C1=C(C=CC=C1CC)CC)OCC | C21H28ClNO
